US08609680B2
The crude tert-butyl cyano(5-methoxypyridin-2-yl)acetate (3.46 g) was suspended in a mixture of 45 mL of water and 45 mL of concentrated HCl. The mixture was heated at 60° C. for 1 hour and at reflux overnight. The reaction was cooled and the water was removed under vacuum. The oily solid residue was redissolved in a minimal amount of water (˜50-70 mL) and 2N NaOH was added to adjust the pH to approximately 14. The solution was washed with diethyl ether and was reacidified to pH 4 with 2N HCl and concentrated to dryness to give a white solid. This solid was triturated in hot THF (3×) and the combined supernatants were cooled in an icebath to initiate crystallization. After 20 minutes, the solid was collected by filtration washing with heptanes to give (5-methoxypyridin-2-yl)acetic acid (1.25 g). A second crop of product precipitated from the filtrate (0.39 g). The filtrate was concentrated, and the material was triturated with hot ethyl acetate and heptanes to provide a third crop of product as a brown solid (0.11 g of lower purity). The total yield of SM-1aa was 1.75 g (98%). MS (ES+) 168.1 (M+H)+. 1H NMR (DMSO-d6) δ 3.66 (s, 2H), 3.81 (s, 3H), 7.27 (d, 1H), 7.33-7.36 (m, 1H), 8.18 (d, 1H).

reactant | tert-butyl cyano(5-methoxypyridin-2-yl)acetate | 3.46 g | C(#N)C(C(=O)OC(C)(C)C)C1=NC=C(C=C1)OC | C13H16N2O3
solvent | water | 45 mL | O | H2O
solvent | HCl | 45 mL | Cl | ClH
product | (5-methoxypyridin-2-yl)acetic acid | 1.25 g | COC=1C=CC(=NC1)CC(=O)O | C8H9NO3
